US07834063B2
4-[[2-(1H-1,2,4-Triazol-1-yl)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
A mixture of 2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl methanesulfonate, Example 15C (0.050 g, 0.128 mmol) and 1,2,4-triazole sodium salt (0.023 g, 0.256 mmol) in DMF (2 mL) was heated at 60° C. under N2 for 45 min. Upon cooling, the mixture was partitioned between Et2O and water. The organic phase was washed with water and the combined aqueous phases were extracted twice with Et2O. The combined organic phases were washed with brine, dried (Na2SO4), and concentrated in vacuo. The residue was purified by silica gel chromatography (5-80% EtOAc/hexanes gradient followed by 1-10% MeOH/EtOAc gradient) and the product was crystallized from CH2Cl2/hexanes to give the title compound as a white solid (0.038 mg, 83% yield): MS (ES) m/z 364 (M+1).

reactant | 2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl methanesulfonate | CS(=O)(=O)OCCN(CC(F)(F)F)C1=CC(=C(C=C1)C#N)C(F)(F)F | C13H12F6N2O3S
reactant | 1,2,4-triazole sodium salt | 0.256 mmol, 0.023 g | [Na].N1N=CN=C1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[[2-(1H-1,2,4-Triazol-1-yl)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.038 mg, 83% yield | N1(N=CN=C1)CCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C14H11F6N5
